US08497281B2
cis-2,3,4,4a,9,9a-Hexahydro-1H-indeno[2,1-b]pyridin-7-ol
Sodium nitrite (92 mg) dissolved in water (0.5 mL) is added dropwise to a solution of cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-7-ylamine dihydrochloride (0.30 g) in half-concentrated sulfuric acid (0.6 ml) chilled in an ice bath. The solution is stirred for 15 min in the cooling bath prior to the addition of half-concentrated sulfuric acid (5 ml). The resulting solution is heated to 120° C. and stirred at this temperature for 3 h. The mixture is cooled to room temperature, diluted with water, and basified with 4 M NaOH. The resulting mixture is extracted with ethyl acetate and the combined extracts are dried (Na2SO4). The solvent is evaporated and the residue is chromatographed on silica gel [dichloromethane/(dichloromethane/methanol/NH4OH 50:48:2) 80:20 40:60] to give the title compound. Yield: 0.07 g (32% of theory); LC (method 1): tR=0.83 min; Mass spectrum (ESI+): m/z=190 [M+H]+.

reactant | Sodium nitrite | 92 mg | N(=O)[O-].[Na+]
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-7-ylamine dihydrochloride | 0.30 g | Cl.Cl.N1[C@@H]2[C@H](CCC1)C=1C=CC(=CC1C2)N
reactant | NaOH | 4 M | [OH-].[Na+]
solvent | water | 0.5 mL | O | H2O
solvent | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | cis-2,3,4,4a,9,9a-Hexahydro-1H-indeno[2,1-b]pyridin-7-ol | N1[C@@H]2[C@H](CCC1)C=1C=CC(=CC1C2)O | C12H15NO
